US05798352
N-t-Butoxycarbonyl-3-(3-pyridyl)-(S)-alanine
Anhydrous potassium carbonate (7.5 g, 54 mmol) was added to a stirred, ice-cooled suspension of 3-(3-pyridyl)-(S)-alanine (Int. J. Pept. Prot. Res.; 1987, 29, 118; 9 g, 54 mmol) in water (50 ml), followed by the dropwise addition of a solution of di-t-butyl dicarbonate (18 g, 82 mmol) in 1,4-dioxan (25 ml) over 10 minutes. The resulting mixture was allowed to warm to room temperature and stir for 18 hours. The reaction mixture was concentrated by evaporation of the bulk of the 1,4-dioxan under reduced pressure and extracted with ethyl acetate (2×20 ml). The pH of the aqueous solution was adjusted to ca. 3 with solid citric acid, solid sodium chloride added to saturation and extraction with ethyl acetate (5×20 ml) effected. The combined organic extracts were dried (MgSO4), filtered and evaporated to low bulk under reduced pressure, whereupon the product started to crystallise. After chilling at 0° C. for 1 hour, the crystals were collected, washed with ether and dried to give the required product (10.36 g, 72%). Rf 0.34 (SS 13).

reactant | potassium carbonate | 54 mmol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(3-pyridyl)-(S)-alanine | 54 mmol, 9 g | N1=CC(=CC=C1)C[C@H](N)C(=O)O | C8H10N2O2
reactant | di-t-butyl dicarbonate | 82 mmol, 18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 50 ml | O | H2O
solvent | 1,4-dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | N-t-Butoxycarbonyl-3-(3-pyridyl)-(S)-alanine | 10.36 g, 72% | C(C)(C)(C)OC(=O)N[C@@H](CC=1C=NC=CC1)C(=O)O | C13H18N2O4
